US05190965
A solution of 10 g of anhydrous aluminum chloride in 150 ml of dry diethyl ether was added dropwise under nitrogen to a suspension of 3.1 g of lithium aluminum hydride in 150 ml of dry diethyl ether, and the mixture was cooled at 0° C. After 30 min at 0° C., a solution of 5.0 g of 2-(3,4-dichlorophenoxy)benzonitrile in 150 ml of dry diethyl ether was added slowly. The mixture was stirred for 24 h at 25° C., and a concentrated aqueous solution of sodium hydrogen carbonate was added. The precipitate was filtered off, the filtrate was evaporated to dryness, dissolved in ethyl acetate, and acidified with a concentrated solution of hydrochloric acid in ethanol. The precipitate was collected and recrystallized from a mixture of ethanol and diethyl ether, to give in 75% yield 2-(3,4-dichlorophenoxy)benzenemethanamine hydrochloride. mp 213° C.

reactant | aluminum chloride | 10 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | lithium aluminum hydride | 3.1 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 2-(3,4-dichlorophenoxy)benzonitrile | 5.0 g | ClC=1C=C(OC2=C(C#N)C=CC=C2)C=CC1Cl | C13H7Cl2NO
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | diethyl ether | 150 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 150 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 150 ml | C(C)OCC | C4H10O
product | 2-(3,4-dichlorophenoxy)benzenemethanamine hydrochloride | 75% yield | Cl.ClC=1C=C(OC2=C(C=CC=C2)CN)C=CC1Cl | InChI=1S/C13H11Cl2NO.ClH/c14-11-6-5-10(7-12(11)15)17-13-4-2-1-3-9(13)8-16;/h1-7H,8,16H2;1H
